US07888366B2
To a cooled (15° C.) and stirred solution of tin (II) chloride (0.74 g, 3.29 mmol) and con. hydrochloric acid (2.0 mL) was added a solution of 2-(2-iodophenoxymethyl)-6-nitrobenzonitrile (250.0 mg, 0.66 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 3 hours. The reaction mixture was poured on to crushed-ice and potassium hydroxide solution, stirred, extracted with dichloromethane, filtered and dried. Purification by silica gel chromatography (dichloromethane) yielded 80 mg of 2-amino-6-(2-iodophenoxymethyl)benzonitrile.

reactant | tin (II) chloride | 3.29 mmol, 0.74 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
reactant | 2-(2-iodophenoxymethyl)-6-nitrobenzonitrile | 0.66 mmol, 250.0 mg | IC1=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=CC=C1 | C14H9IN2O3
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-6-(2-iodophenoxymethyl)benzonitrile | 80 mg | NC1=C(C#N)C(=CC=C1)COC1=C(C=CC=C1)I | C14H11IN2O
